US06881733B1
1-(tert-butoxycarbonyl)-2-methyl-4-oxopiperidine
A mixture of 12.4 gm (55 mMol) 2-methyl-4-oxopiperidine, 6.89 gm (82 mMol) sodium bicarbonate, and 13.1 gm (60 mMol) di(tert-butoxy) dicarbonate in 40 mL water and 100 mL chloroform was stirred at room temperature for 16 hours. The mixture was diluted with 25 mL deionized water and the phases were separated. The aqueous phase was extracted with 4×25 mL chloroform. The organic phases were combined, dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 3:1 hexane:ethyl acetate containing 1% triethylamine. Fractions containing product were combined and concentrated under reduced pressure to provide 12.0 gm of the title compound as a slightly yellow oil.

reactant | 2-methyl-4-oxopiperidine | 55 mMol, 12.4 gm | CC1NCCC(C1)=O | C6H11NO
reactant | sodium bicarbonate | 82 mMol, 6.89 gm | C([O-])(O)=O.[Na+]
reactant | di(tert-butoxy) dicarbonate | 60 mMol, 13.1 gm | C(=O)(OOC(C)(C)C)OC(=O)OOC(C)(C)C | C10H18O7
solvent | water | 40 mL | O | H2O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(tert-butoxycarbonyl)-2-methyl-4-oxopiperidine | 12.0 gm | C(C)(C)(C)OC(=O)N1C(CC(CC1)=O)C | C11H19NO3
